US07754895B2
Preparation of 7-Fluoro-1,3-dihydroindol-2-one
To a mixture of 7-fluoro-1H-indole-2,3-dione (100 g, 0.606 mol) in ethylene glycol (500 mL) was added an aqueous hydrazine solution (54% wt, 73 g, 1.21 mol) dropwise over 30 minutes. The mixture was heated to 120° C. and stirred for 6 hours. The mixture was cooled to room temperature and water (500 mL) was added. Concentrated hydrochloric acid (HCl; 60 mL) was added, the mixture was warmed to about 35 to about 40° C., and the mixture was stirred for 1 hour. The mixture was then cooled to about 0 to about 5° C. The solid compound was filtered, washed with cold water and dried at 55° C. under vacuum to give an off-white solid (76 g) in 83% yield with 96% HPLC purity.

reactant | 7-fluoro-1H-indole-2,3-dione | 0.606 mol, 100 g | FC=1C=CC=C2C(C(NC12)=O)=O | C8H4FNO2
reactant | hydrazine | NN | H4N2
reactant | water | 500 mL | O | H2O
reactant | hydrochloric acid | 60 mL | Cl | ClH
solvent | ethylene glycol | 500 mL | C(CO)O | C2H6O2
product | 7-Fluoro-1,3-dihydroindol-2-one | 76 g, 83% yield | FC=1C=CC=C2CC(NC12)=O | C8H6FNO
